US06562989B2
4-(2-methylphenyl)nitrobenzene (Table 10, Entry 7)
4-Chloronitrobenzene (80 mg, 0.51 mmol) reacted with o-methylphenylboronic acid (85 mg, 0.63 mmol) using 0.5/1.0 mol % of Pd(OAc)2/Ph5FcP(t-Bu)2 and KF (87 mg, 1.55 mmol) in THF solvent at 50° C. for 22 h to give the title compound (107 mg, 98%): 1H-NMR (500 MHz, CDCl3): δ 8.30 (d, 2H, J=6.90 Hz, aryl coupling 1.8 Hz), 7.51 (d, 2H, J=6.92 Hz, aryl coupling 1.8 Hz), 7.35-7.23 (m, 4H), 2.29 (s, 3H, Ar—CH3). 13C{1H}-NMR (125 MHz, CDCl3): δ 148.80, 146.86, 139.60, 135.04, 130.70, 130.09, 129.39, 128.45, 126.11, 123.40, 20.31. GC/MS(EI): m/z 213 (M+), 165, 152.

reactant | 4-Chloronitrobenzene | 0.51 mmol, 80 mg | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | o-methylphenylboronic acid | 0.63 mmol, 85 mg | CC1=C(C=CC=C1)B(O)O | C7H9BO2
reactant | KF | 1.55 mmol, 87 mg | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-(2-methylphenyl)nitrobenzene | 107 mg, 98% | CC1=C(C=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C13H11NO2
